US08183289B2
Methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-fluorophenyl)acetate (32 mg, 0.072 mmol) was diluted with dioxane (1 mL) followed by the addition of NaOH (0.072 ml, 0.36 mmol) and 200 μL of water. After stirring for 3 hours, the reaction was diluted with ethyl acetate and 2N HCl. The organic layer was dried over MgSO4, filtered and concentrated to yield 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-fluorophenyl)acetic acid (15 mg, 48% yield) as a white solid. 1H NMR (400 MHz, CD3Cl3, CD3OD) 7.70 (d, 2H), 7.25 (d, 2H), 7.19 (m, 3H), 7.10 (m, 2H), 6.95 (d, 2H), 3.65 (m, 4H), 2.90 (t, 2H).

reactant | Methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-fluorophenyl)acetate | 0.072 mmol, 32 mg | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC)F)C=C2)C=C1 | C24H21ClFNO4
reactant | NaOH | 0.36 mmol, 0.072 ml | [OH-].[Na+]
reactant | water | 200 μL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-fluorophenyl)acetic acid | 15 mg, 48% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)F)C=C2)C=C1 | C23H19ClFNO4
